US06730792B2
A mixture of 3-hydroxyacetophenone (20.0 g, 146.9 mmol) and N,N-dimethylformamide dimethyl acetal (26.26 g, 220.4 mmol) is heated over night at 100° C. The excess of the acetal is removed under reduced pressure and 3-(dimethylamino)-1-(3-hydroxyphenyl)-2-propen-1-one (10.32 g, 37%) is obtained after chromatography on silica gel with dichloromethane/ethanol 9:1. This intermediate enone is reacted with (2S)-glycidyl 3-nitrobenzenesulfonate substantially as described for Epoxide 1 to give 5.02 g of the title epoxide (78%).

reactant | 3-hydroxyacetophenone | 146.9 mmol, 20.0 g | CC(=O)C=1C=CC=C(C1)O | C8H8O2
reactant | N,N-dimethylformamide dimethyl acetal | 220.4 mmol, 26.26 g | COC(N(C)C)OC | C5H13NO2
product | 3-(dimethylamino)-1-(3-hydroxyphenyl)-2-propen-1-one | 10.32 g, 37% | CN(C=CC(=O)C1=CC(=CC=C1)O)C | C11H13NO2
